US04076630
An emulsion containing the potassium salt of bis-(2,3-dibromopropyl) phosphoric acid and tris-(2,3-dibromopropyl) phosphate was formed by adding 25 gms of the emulsion concentrate from Example 2 to 975 gms of water with stirring at room temperature.

reactant | potassium | [K] | K
reactant | bis-(2,3-dibromopropyl) phosphoric acid | BrC(COP(OCC(CBr)Br)(O)=O)CBr | C6H11Br4O4P
product | tris-(2,3-dibromopropyl) phosphate | P(=O)(OCC(CBr)Br)(OCC(CBr)Br)OCC(CBr)Br | C9H15Br6O4P
